US08609656B2
1-[4-(6-Amino-8-ethylpurin-9-yl)phenyl]-3-[3-(4-methylpiperazin-1-ylmethyl)-5-(trifluoromethyl)phenyl]urea (Table 2, Compound No. 32)
In 3 mL of methanol, 20 mg (0.1 mmol) of 1-[4-(6-amino-8-vinylpurin-9-yl)phenyl]-3-[3-(4-methylpiperazin-1-ylmethyl)-5-(trifluoromethyl)phenyl]urea was dissolved, and 10 mg of 10% palladium carbon was added thereto, and the mixture solution was refluxed with stirring in a hydrogen atmosphere for one hour. The palladium carbon was removed by filtration and the reaction solution was concentrated under reduced pressure, and the obtained crude product was triturated with diethyl ether to obtain 18 mg (90%) of a target product as a pale yellow solid.

reactant | 1-[4-(6-amino-8-vinylpurin-9-yl)phenyl]-3-[3-(4-methylpiperazin-1-ylmethyl)-5-(trifluoromethyl)phenyl]urea | 0.1 mmol, 20 mg | NC1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=CC(=C1)C(F)(F)F)CN1CCN(CC1)C)C=C | C27H28F3N9O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 3 mL | CO | CH4O
catalyst | palladium carbon | 10 mg | [C].[Pd]
product | 1-[4-(6-Amino-8-ethylpurin-9-yl)phenyl]-3-[3-(4-methylpiperazin-1-ylmethyl)-5-(trifluoromethyl)phenyl]urea | 18 mg, 90% | NC1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=CC(=C1)C(F)(F)F)CN1CCN(CC1)C)CC | C27H30F3N9O
